US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)sulfonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(±)-cis-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine trifluoroacetate (400 mg) was suspended in dichloromethane (10 ml), triethylamine (0.514 ml) and 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride (Japanese Patent Application Laid-Open No. 2000-119253) (319 mg) were added, and the mixture was stirred at room temperature for 15 minutes. After water was added to the reaction mixture to conduct liquid separation, the resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a pale yellow foamy substance. This substance was dissolved in tetrahydrofuran (3 ml), and methanol (2 ml) and a 1N aqueous solution (1.5 ml) of sodium hydroxide were added to heat the mixture under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, and dichloromethane and 1N hydrochloric acid were added to the residue to conduct liquid separation. After the resultant organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a pale yellow foamy substance. This substance was added to 1N hydrochloric acid (1 ml), and the mixture was concentrated under reduced pressure to obtain the title compound (108 mg) as a pale yellow foamy substance.

reactant | (±)-cis-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine trifluoroacetate | 400 mg | FC(C(=O)O)(F)F.CN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)N
reactant | 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)Cl | C14H9Cl2NO4S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 0.514 ml | C(C)N(CC)CC | C6H15N
product | (±)-cis-N1-[(5-Chloroindol-2-yl)sulfonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 108 mg | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C22H26ClN5O3S2.ClH/c1-28-9-8-18-19(12-28)32-22(26-18)21(29)25-16-4-2-3-5-17(16)27-33(30,31)20-11-13-10-14(23)6-7-15(13)24-20;/h6-7,10-11,16-17,24,27H,2-5,8-9,12H2,1H3,(H,25,29);1H/t16-,17+;/m0./s1
